US07767854B2
Under nitrogen atmosphere, to a suspension of lithium aluminium hydride (0.76 g) in anhydrous tetrahydrofuran (25 ml) under ice-cooling was added dropwise a solution of the above product (5) (1.3 g) in anhydrous tetrahydrofuran (25 ml), and then the mixture was heated under reflux for 3 hours. To the reaction mixture cooled in an ice-water bath were added dropwise ethyl acetate and 1 M aqueous potassium sodium tartrate to quench an excess of lithium aluminium hydride. The mixture was filtrated through Celite. The filtrate was dried over magnesium sulfate, and then the solvent was removed in vacuo. The mixture of resulting colorless oil (1.1 g, a mixture of cis and trans forms), 4-acetoxy-3-methoxyphenyacetic acid (1.3 g), 1-ethyl-3-(3-dimethyl-aminopropyl)carbodiimide hydrochloride (1.4 g), 1-hydroxybenzotriazole (0.09 g), and dichloromethane (40 ml) was stirred overnight at room temperature. The reaction mixture was washed with water and then brine. The organic layer was dried over magnesium sulfate, and the solvent was removed in vacuo. The residue was purified by a silica gel chromatography (eluent: hexane/ethyl acetate=3/1 to 3/2) to give 1.9 g of 2-(4-acetoxy-3-methoxyphenyl)-N-[4-(2-ethyl-1-butenyl)cyclohexyl]acetamide (1.9 g, a mixture of cis and trans forms).

reactant | lithium aluminium hydride | 0.76 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | potassium sodium tartrate | 1 M | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
reactant | 4-acetoxy-3-methoxyphenyacetic acid | 1.3 g | C(C)(=O)OC1=C(C=C(C=C1)CC(=O)O)OC | C11H12O5
reactant | 1-hydroxybenzotriazole | 0.09 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-acetoxy-3-methoxyphenyl)-N-[4-(2-ethyl-1-butenyl)cyclohexyl]acetamide | 1.9 g | C(C)(=O)OC1=C(C=C(C=C1)CC(=O)NC1CCC(CC1)C=C(CC)CC)OC | C23H33NO4
